*-----------------------------------------------------------------------------
*             connections: non-inverting input
*             | inverting input
*             | | positive power supply
*             | | | negative power supply
*             | | | | output
*             | | | | | compensation
*             | | | | | / \
.SUBCKT LM308 3 2 7 4 6 1 8
* USE C=30 PF IN MAIN CIRCUIT (CA TO CB).
* INPUT
RC1 7 80 8842
RC2 7 90 8842
Q1 80 2 10 QM1
Q2 90 3 11 QM2
DDM1 2 3 DM2
DDM2 3 2 DM2
C1 80 90 5.46e-12
RE1 10 12 224.5
RE2 11 12 224.5
IEE 12 4 6.003e-6
RE 12 0 33320000
CE 12 0 1.579E-12
* INTERMEDIATE
GCM 0 8 12 0 1.131e-9
GA 8 0 80 90 1.131E-04
R2 8 0 100000
* EXTERNAL COMP CAP USED FOR C2 (SEE NOTE ABOVE).
GB 1 0 8 0 31.46
* OUTPUT
RO1 1 6 111.1
RO2 1 0 888.9
RC 17 0 3.533E-04
GC 0 17 6 0 2830
D1 1 17 DM1
D2 17 1 DM1
D3 6 13 DM2
D4 14 6 DM2
VC 7 13 1.766
VE 14 4 1.766
IP 7 4 0.000294
DSUB 4 7 DM2
.MODEL QM1 NPN(IS=8e-16 BF=1875)
.MODEL QM2 NPN(IS=8.643E-16 BF=2143)
.MODEL DM1 D(IS=1.192E-10)
.MODEL DM2 D(IS=8e-16)
.ENDS LM308
*